US07169809B2
Step 4: (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl acetate
To a solution of 50.5 g of (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl acetate in 125 mL of MeCN, 10 mL of PyHF was added and the resulted mixture was stirred at rt for 1.5 hr. The reaction mixture was diluted with 600 mL of toluene and then loaded on silica gel column and eluted with EtOAc. The solvent was evaporated to afford 38.3 g of the titled compound. 1H NMR (acetone-d6, 500 M Hz): δ 7.68 (d, 2H), 7.32 (d, 2H), 7.15–7.00 (m, 5H), 5.20 (s, 2H), 4.62 (d, 2H), 4.09 (t, 1H, OH), 3.02 (s, 3H), 1.92 (s, 3 H),

reactant | (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl acetate | 50.5 g | C(C)(=O)OC\C(=C(/CO[Si](C)(C)C(C)(C)C)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C25H34O5SSi
solvent | MeCN | 125 mL | CC#N | C2H3N
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl acetate | 38.3 g | C(C)(=O)OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C19H20O5S
